US05102771
To a solution of 20 g methacrylic acid in 50 ml dichloromethane was added 19 g ethyl vinyl ether in 30 ml dichloromethane. The mixture was stirred overnight at room temperature and poured into ether and washed with a saturated aqueous solution of sodium bicarbonate until the solution ceased effervescing. The organic layer was dried with MgO/MgSO4 and concentrated in vacuo. The residue was distilled at 25° C./0.1 torr to give 7.1 g (19% yield) of ethoxyethyl methacrylate. A mixture of 7.0 g ethoxyethyl methacrylate and 0.076 g AIBN in 7 ml MEK was heated to 60° C. for 24 hr and 7 ml MEK was added. This solution (solution E) was used for further evaluation.

reactant | methacrylic acid | 20 g | C(C(=C)C)(=O)O | C4H6O2
reactant | ethyl vinyl ether | 19 g | C(=C)OCC | C4H8O
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | ethoxyethyl methacrylate | 7.1 g, 19% yield | C(C(=C)C)(=O)OCCOCC | C8H14O3
